US06921763B2
To a mixture of 3-amino-4-hydroxybenzonitrile (1.84 g, 0.0137 mol) in acetonitrile (140 mL) was added 4-bromophenyl isothiocyanate (2.93 g, 0.0137 mol) at room temperature. The mixture was stirred for 16 hours at room temperature. Cuprous chloride (1.36 g, 0.0137 mol) and triethylamine (1.9 mL, 0.0137 mol) were added to the reaction mixture. The mixture was stirred for 16 hours at room temperature. The solvent was removed under reduced pressure, and the solid was suspended in methanol. The mixture was filtered through celite pad using methanol. The brownish filtrate was left at 4° for three days. The precipitate was filtered and washed with methanol to yield 2-(4-bromoanilino)-1,3-benzoxazole-5-carbonitrile (2.4 g, 0.0076 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 11.1 min. MS: MH: 313

reactant | 3-amino-4-hydroxybenzonitrile | 0.0137 mol, 1.84 g | NC=1C=C(C#N)C=CC1O | C7H6N2O
reactant | 4-bromophenyl isothiocyanate | 0.0137 mol, 2.93 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | triethylamine | 0.0137 mol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 140 mL | C(C)#N | C2H3N
product | 2-(4-bromoanilino)-1,3-benzoxazole-5-carbonitrile | 0.0076 mol, 2.4 g | BrC1=CC=C(NC=2OC3=C(N2)C=C(C=C3)C#N)C=C1 | C14H8BrN3O
